US09145407B2
5-Hydroxy-4-[2-methoxy-5-(trifluoromethyl)phenyl]-5-methylfuran-2(5H)-one
5-(Trifluoromethyl)-2-methoxyphenylacetone (2800 mg, 12 mmol) was mixed with glyoxylic acid (2.7 mL 18 mmol) and stirred at 100° C. for 16 hours. The reaction mixture was then concentrated in vacuo and azeotroped with toluene to afford the title compound (3.5 g).

reactant | 5-(Trifluoromethyl)-2-methoxyphenylacetone | 12 mmol, 2800 mg | FC(C=1C=CC(=C(C1)CC(C)=O)OC)(F)F | C11H11F3O2
reactant | glyoxylic acid | 18 mmol, 2.7 mL | C(C=O)(=O)O | C2H2O3
product | 5-Hydroxy-4-[2-methoxy-5-(trifluoromethyl)phenyl]-5-methylfuran-2(5H)-one | 3.5 g | OC1(C(=CC(O1)=O)C1=C(C=CC(=C1)C(F)(F)F)OC)C | C13H11F3O4
